US09382241B2
Step 4: 4-amino-6-chloro-quinazoline-8-carbonitrile 53-D
To an 8 mL screw-cap vial was added 6-chloro-8-iodo-quinazolin-4-amine (450 mg, 1.47 mmol), dimethylformamide (2 mL), zinc cyanide (0.65 equiv., 1.0 mmol, 115 mg), and palladium tetra is(triphenylphosphine), (0.1 equiv., 0.15 mmol), 179 mg). The reaction was capped and shaken at 110° C. overnight. The reaction was cooled to room temperature, diluted with 3 mL of dichloromethane, and 2 mL of water was added. The precipitate that followed was collected by filtration, and washed with water, then dichloromethane yielding 240 mg of 4-amino-6-chloro-quinazoline-8-carbonitrile as a light yellow solid. 1H NMR (400 MHz, DMSO) δ 8.72-8.67 (d, J=2.2 Hz, 1H), 8.54-8.50 (s, 1H), 8.50-8.46 (d, J=2.1 Hz, 1H), 8.29-8.22 (bs, 2H). LCMS M/Z (M+H)=205.

reactant | 6-chloro-8-iodo-quinazolin-4-amine | 1.47 mmol, 450 mg | ClC=1C=C2C(=NC=NC2=C(C1)I)N | C8H5ClIN3
reactant | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | water | 2 mL | O | H2O
catalyst | zinc cyanide | 1.0 mmol, 115 mg, 0.65 equiv. | [C-]#N.[Zn+2].[C-]#N
catalyst | palladium | 0.15 mmol, 0.1 equiv. | [Pd] | Pd
product | 4-amino-6-chloro-quinazoline-8-carbonitrile | NC1=NC=NC2=C(C=C(C=C12)Cl)C#N | C9H5ClN4
